US07348438B2
1-Benzofuran-2-yl-2-[5,6-dichloro-2-(2,2,2-trifluoro-ethyl)-benzoimidazol-1-yl]-ethanone
To 5,6-dichloro-2-(2,2,2-trifluoro-ethyl)-1H-benzimidazole (460.5 mg) in DMF (5 mL) was added sodium hydride (103 mg of 60% in oil dispersion). The resulting mixture was stirred at room temperature for 5 min. To the dark green solution was added 1-(1-benzofuran-2-yl)-2-bromoethan-1-one (633 mg) and the resulting mixture was stirred at room temperature overnight. The reaction mixture was quenched with water, extracted with EtOAc, and dried over Na2SO4. The crude product was purified by silica gel chromatography (10%-40% EtOAc/hexanes) to yield the title compound as a yellow solid.

reactant | 5,6-dichloro-2-(2,2,2-trifluoro-ethyl)-1H-benzimidazole | 460.5 mg | ClC1=CC2=C(NC(=N2)CC(F)(F)F)C=C1Cl | C9H5Cl2F3N2
reactant | sodium hydride | 103 mg | [H-].[Na+]
reactant | 1-(1-benzofuran-2-yl)-2-bromoethan-1-one | 633 mg | O1C(=CC2=C1C=CC=C2)C(CBr)=O | C10H7BrO2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 1-Benzofuran-2-yl-2-[5,6-dichloro-2-(2,2,2-trifluoro-ethyl)-benzoimidazol-1-yl]-ethanone | O1C(=CC2=C1C=CC=C2)C(CN2C(=NC1=C2C=C(C(=C1)Cl)Cl)CC(F)(F)F)=O | C19H11Cl2F3N2O2
